US08557983B2
tert-butyl (4-(oxetan-3-yl)morpholin-2-yl)methylcarbamate
To a solution of tert-butyl morpholin-2-ylmethylcarbamate (0.50 g) in dichloromethane (5 mL) was added oxetan-3-one (0.20 g). After stirring for 5 minutes, sodium triacetoxyborohydride (0.735 g) was added. After stirring for 2 hours, the reaction was diluted with dichloromethane (50 mL) and quenched with saturated NaHCO3 solution (50 mL). The organic layer was separated, washed with brine (40 mL), dried over magnesium sulfate, filtered, and concentrated. Silica gel chromatography (Reveleris 80 g) eluting with a gradient of 0.5% to 5% methanol/dichloromethane over 40 minutes (flow=40 ml/minute) gave the title compound.

reactant | tert-butyl morpholin-2-ylmethylcarbamate | 0.50 g | N1CC(OCC1)CNC(OC(C)(C)C)=O | C10H20N2O3
reactant | oxetan-3-one | 0.20 g | O1CC(C1)=O | C3H4O2
reactant | sodium triacetoxyborohydride | 0.735 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-butyl (4-(oxetan-3-yl)morpholin-2-yl)methylcarbamate | O1CC(C1)N1CC(OCC1)CNC(OC(C)(C)C)=O | C13H24N2O4
